US07842685B2
To a nearly clear solution of (3-nitro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methanol (0.394 g, 0.977 mmol) and triphenyl phosphine (0.294 mL, 1.27 mmol) in 10 mL DCM at 0° C. was added carbon tetrabromide (0.114 mL, 1.17 mmol) in one portion. The reaction mixture was allowed to stir 1 h, then was treated with 3.5 g silica gel and dried. Purification by silica gel chromatography, 40 g, 0-30% EA/hexanes gave 2-(4-(bromomethyl)-2-nitrophenyl)-5-(1-phenylcyclopropyl)thiazolo-[5,4-b]pyridine as an orange-yellow solid. MS (ESI) m/z: Calculated: 467.0; Observed: 467.6 (M++1).

reactant | (3-nitro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methanol | 0.977 mmol, 0.394 g | [N+](=O)([O-])C=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CO | C22H17N3O3S
reactant | triphenyl phosphine | 1.27 mmol, 0.294 mL | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 1.17 mmol, 0.114 mL | C(Br)(Br)(Br)Br | CBr4
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(bromomethyl)-2-nitrophenyl)-5-(1-phenylcyclopropyl)thiazolo-[5,4-b]pyridine | BrCC1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)[N+](=O)[O-] | C22H16BrN3O2S
